US09403832B2
Part A. 2-methoxyethyl 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate
To 10.00 g (35.44 mmol) of 3-bromo-5-(piperazin-1-yl)pyrazolo[1,5-a]pyrimidine dissolved in 120 mL of EtOAc, at 0° C. was added 5.40 g (38.99 mmol) of 2-methoxyethyl carbonochloridate, followed by 9.86 mL (70.88 mmol) of TEA. After 5 minutes, the ice bath was removed, and the reaction mixture stirred at RT. After 5 hr, LCMS showed that the reaction was complete. It was diluted with EtOAc, quenched with brine, and the organic layer dried over MgSO4. It was concentrated and purified on the ISCO with a 330 g column eluting with 0-9% MeOH/DCM to obtain the desired product, 12.63 g (93%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 3.42 (s, 3 H) 3.62-3.69 (m, 6 H) 3.73-3.82 (m, 4 H) 4.26-4.35 (m, 2 H) 6.36 (d, J=7.83 Hz, 1 H) 7.86 (s, 1 H) 8.27 (d, J=7.83 Hz, 1 H). LRMS (ESI) m/e 384 [(M+H)+, (doublet), calcd for C14H18BrN5O3 383].

reactant | 3-bromo-5-(piperazin-1-yl)pyrazolo[1,5-a]pyrimidine | 35.44 mmol, 10.00 g | BrC=1C=NN2C1N=C(C=C2)N2CCNCC2 | C10H12BrN5
reactant | 2-methoxyethyl carbonochloridate | 38.99 mmol, 5.40 g | C(OCCOC)(=O)Cl | C4H7ClO3
solvent | EtOAc | 120 mL | CCOC(=O)C | C4H8O2
product | 2-methoxyethyl 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate | BrC=1C=NN2C1N=C(C=C2)N2CCN(CC2)C(=O)OCCOC | C14H18BrN5O3
